US07977477B2
A mixture of 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-5-carboxylic acid methyl ester (12.0 mg, 0.03 mmol) in 2 M aqueous NaOH/MeOH (1:1, 4 ml) was stirred at ambient temperature for 14 h. The mixture was reduced in vacuo, water (5 ml) added and the mixture taken to pH 4 using 1 M aqueous HCl. The precipitate formed was collected by filtration and dried under vacuum to give 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-5-carboxylic acid as a pale coloured solid (6 mg, 52%). (LC/MS: Rt 2.88, [M+H]+ 383.97).

reactant | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-5-carboxylic acid methyl ester | 0.03 mmol, 12.0 mg | COC(=O)C1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O)C=C1 | C19H13F2N5O3
reactant | water | 5 ml | O | H2O
reactant | HCl | 1 M | Cl | ClH
solvent | NaOH MeOH | 2 M, 4 ml | [OH-].[Na+].CO
product | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-1H-benzimidazole-5-carboxylic acid | 6 mg, 52% | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)C(=O)O)C(=CC=C1)F | C18H11F2N5O3
